US05541032
Preparation of 4-methylphenacylpyridinium tetraphenylborate
The title compound was prepared similarly to Example 2 from 4-methylphenacylpyridinium bromide and sodium tetraphenylborate in a yield of 100%.

reactant | 4-methylphenacylpyridinium bromide | [Br-].CC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1
reactant | sodium tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
product | 4-methylphenacylpyridinium tetraphenylborate | yield of 100% | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC1=CC=C(C(C[N+]2=CC=CC=C2)=O)C=C1 | InChI=1S/C24H20B.C14H14NO/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-12-5-7-13(8-6-12)14(16)11-15-9-3-2-4-10-15/h1-20H;2-10H,11H2,1H3/q-1;+1
